US05690904
2-(4-Methoxybenzylthio)-2-methylpropionic acid
Sodium methoxide (81 g, 1.5 mol) was added to 50 ml methanol and 375 ml freshly distilled tetrahydrofuran. The slurry was stirred in an ice bath and 4-methoxybenzylmercaptan (80 g, 0.52 mol) was added slowly. The cloudy orange solution was stirred at room temperature for 1.25 hours, 2-bromo-2-methylproprionic acid (83.5 g, 0.5 mol) was dissolved in 200 ml tetrahydrofuran and added to the mixture. The thick slurry was stirred at reflux for 70 h, then cooled to room temperature. Iodine crystals were added until a red colour persisted. The mixture was dissolved in 2000 ml 0.5M sodium hydroxide solution, and washed with 2×1000 ml ether. The aqueous layer was acidified and extracted with 2×1000 ml ether. The ether layer was washed with 2×1000 ml saturated sodium chloride solution, dried over sodium sulphate, and filtered. The solvent was removed by rotary evaporation to yield an orange solid. This was recrystallised from ethyl acetate to give 70.3 g of the desired product (59% yield) as white crystals. 1H NMR (60 MHz, CDCl3): 1.57 (s, 6H), 3.73 (s, 3H), 3.83 (s, 2H), 6.5-7.5 (m, 4H), 10.90 (brs, 1H) ppm. TLC (50% ether/hexane) Rf 0.30.

reactant | Sodium methoxide | 1.5 mol, 81 g | C[O-].[Na+]
reactant | 4-methoxybenzylmercaptan | 0.52 mol, 80 g | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | 2-bromo-2-methylproprionic acid | 0.5 mol, 83.5 g | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | Iodine crystals | II | I2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 0.5M, 2000 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-Methoxybenzylthio)-2-methylpropionic acid | 70.3 g, 59% yield | COC1=CC=C(CSC(C(=O)O)(C)C)C=C1 | C12H16O3S
